US05006520
To a suspension of 9 g of 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine, 30 ml of dimethylformamide and 6.2 g of potassium carbonate was added dropwise 6.6 g of benzyl chloroacetate at 50° C. over the period of 2 hours. The mixture was kept at the same temperature for 4 hours. After the completion of the reaction, the reaction mixture was cooled. Water was added thereto, and the mixture was extracted with toluene. The extract was washed with water. After toluene was distilled off, diisopropyl ether was added to the residue for crystallization. The resulting crystals were recrystallized from diisopropyl ether - ethyl acetate to give benzyl 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate, m.p. 90°-92° C.

reactant | 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine | 9 g | CN(CCCOC1=CC=C(C=C1)C1=NNC2=NC=CC=C21)C | C17H20N4O
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroacetate | 6.6 g | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
solvent | Water | O | H2O
product | benzyl 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate | CN(CCCOC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)OCC2=CC=CC=C2)C | C26H28N4O3
